US07790728B2
N-[5-(3-Chloropyridin-4-yl)-6-pyridin-2-ylpyrazin-2-yl]cyclopropanecarboxamide
An oven dried resealable Schlenk tube was charged with N-[6-chloro-5-(3-chloropyridin-4-yl)pyrazin-2-yl]cyclopropanecarboxamide (0.2 g, 0.65 mmol), 2-(tributylstannyl)pyridine (0.38 g, 1.04 mmol) and xylene (4 mL). The Schienk tube was subjected to three cycles of evacuation-backfilling with argon, and tetrakis(triphenylphosphine)palladium (75 mg, 0.065 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in a 150° C. oil bath. After 20 h, the mixture was cooled, partitioned between water and ethyl acetate, the aqueous phase was extracted twice with ethyl acetate, the organic layers washed with brine, dried (MgSO4) and evaporated. Silica gel flash chromatography (98:2 dichloromethane/methanol) furnished the title compound of Example 22 as a light brown solid (110 mg, 48%).

reactant | N-[6-chloro-5-(3-chloropyridin-4-yl)pyrazin-2-yl]cyclopropanecarboxamide | 0.65 mmol, 0.2 g | ClC1=C(N=CC(=N1)NC(=O)C1CC1)C1=C(C=NC=C1)Cl | C13H10Cl2N4O
reactant | 2-(tributylstannyl)pyridine | 1.04 mmol, 0.38 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.065 mmol, 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | xylene | 4 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-[5-(3-Chloropyridin-4-yl)-6-pyridin-2-ylpyrazin-2-yl]cyclopropanecarboxamide | 110 mg, 48% | ClC=1C=NC=CC1C=1N=CC(=NC1C1=NC=CC=C1)NC(=O)C1CC1 | C18H14ClN5O
